US09278978B2
B1) 4-bromo-6-{2-[tris(propan-2-yl)silyl]ethynyl}pyridin-2-amine
Under argon atmosphere dichlorobis(triphenylphosphine)palladium(II) (1.6 g, 2.2 mmol) is added to a mixture of 2-amino-4,6-dibromopyridine (5.44 g, 21.6 mmol), ethynyl-tri(propan-2-yl)silane (5.1 g, 28.1 mmol), copper(I) iodide (0.44 g, 2.3 mmol) and triethylamine (9 ml, 64 mmol) in ACN (32 ml) with THF (16 ml). After stirring at 50° C. for 17 h the mixture is diluted with water and extracted with EtOAc. The combined organic layers are dried over MgSO4 and concentrated in vacuo. The product is purified by NP chromatography. Yield: 4.7 g (62%). HPLC-MS: M+H=353/355; tR=1.80 min (METHOD—1).

reactant | 2-amino-4,6-dibromopyridine | 21.6 mmol, 5.44 g | NC1=NC(=CC(=C1)Br)Br | C5H4Br2N2
reactant | ethynyl-tri(propan-2-yl)silane | 28.1 mmol, 5.1 g | C(#C)[Si](C(C)C)(C(C)C)C(C)C | C11H22Si
reactant | triethylamine | 64 mmol, 9 ml | C(C)N(CC)CC | C6H15N
reactant | THF | 16 ml | C1CCOC1 | C4H8O
solvent | ACN | 32 ml | C(C)#N | C2H3N
solvent | water | O | H2O
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 2.2 mmol, 1.6 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 2.3 mmol, 0.44 g | [Cu]I
product | 4-bromo-6-{2-[tris(propan-2-yl)silyl]ethynyl}pyridin-2-amine | BrC1=CC(=NC(=C1)C#C[Si](C(C)C)(C(C)C)C(C)C)N | C16H25BrN2Si
